Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[O:11],1.86564978153
[H:1][C:4]#[C:5][O:10][C:3](=[C:2])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]=[C:3]1[C:4][C:5]([C:6]([H:7])([H:8])[H:9])[O:10]1,-0.15533389267
[H:10].[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[O:11][H:12]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-2.12863602263
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-0.8233675737289999
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10][H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]1([H:8])[O:9][C:10]1[H:11],-1.8317599762
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:3],1.92606455581
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][C@:3]([O:4][H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],4.68385689544
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9],1.82464825379
[H:1].[O:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-2.09547723939
[O:1][C@:2]([H:3])([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],4.22521589743
[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-3.6122640803199992
[C:1]#[C:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7].[C:8]([H:9])([H:10])[O:11][H:12],3.4539588252
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:12]([H:13])([H:14])[H:15],1.67794577018
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2],5.28381803511
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[H:8]>>[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6]1([H:7])[H:8],-1.21910262021
[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],2.27451870956
[C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.22189588976
[H:14].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.4954900949
[C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10][H:11].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10][H:11],-3.96786345066
[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12],-1.79244103479
[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.97702958043
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[C:7](=[O:8])[H:9]>>[C:3]([H:4])=[C:5]([H:6])[C:7](=[O:8])[H:9].[O:1]=[C:2],1.9490203141
[H:1][C:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:9][C:10]([H:11])([H:12])[H:13].[H:8],1.2378605884799998
[C:7]([H:8])([H:9])=[C:10]=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-0.89278675567
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],4.51919284376
[C:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[C:1]=[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-2.42116266722
[C:4]#[C:8][H:9].[H:1][C:2](=[C:3]=[C:5]([H:6])[H:7])[H:10]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],-3.9273076903199993
[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14],-4.16050455849
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],1.930439243
